US07632832B2
N-[(3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxamide
3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine (20.0 mg, 0.06 mmol) and p-nitrophenylchloroformate (12.1 mg, 0.06 mmol) were dissolved in tetrahydrofuran (0.5 mL) under argon, and cooled to 0° C. Triethylamine (8.4 uL, 0.06 mmol) was added and the reaction stirred for 1 h, followed by addition of more triethylamine (21 uL) and 4-phenyl-1-piperidin-4-ylimidazolidin-2-one trifluoroacetic acid salt (21.6 mg, 0.06 mmol), in dimethylsulfoxide (0.5 mL). The reaction was warmed to room temperature and stirred overnight. The crude product was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution) to give the title compound (18.5 mg). MS 605.2459 (M+1)

reactant | 3-Amino-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.06 mmol, 20.0 mg | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | Triethylamine | 0.06 mmol, 8.4 uL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 21 uL | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1-piperidin-4-ylimidazolidin-2-one trifluoroacetic acid salt | 0.06 mmol, 21.6 mg | FC(C(=O)O)(F)F.C1(=CC=CC=C1)C1NC(N(C1)C1CCNCC1)=O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | N-[(3R)-2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxamide | 18.5 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)N1C(NC(C1)C1=CC=CC=C1)=O)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C32H31F3N6O3
